US08729102B2
A) 2-(2-Bromo-4-hydroxyphenyl)acetic acid
To a solution of (2-bromo-4-methoxyphenyl)acetic acid (0.49 g) in dichloromethane (5 mL) was added a solution of tribromoborane (5 mL) dropwise at room temperature. The mixture was refluxed for 3 hr. After cooling to room temperature, the mixture was poured into iced water. The organic layer was separated, and the water layer was extracted by ethyl acetate (30 mL×3). The combined organic layer was dried over anhydrous sodium sulfate, filtered and evaporated to dryness. The residue was washed with ether to give the title compound (0.45 g).

reactant | (2-bromo-4-methoxyphenyl)acetic acid | 0.49 g | BrC1=C(C=CC(=C1)OC)CC(=O)O | C9H9BrO3
reactant | tribromoborane | 5 mL | BrB(Br)Br | BBr3
reactant | water | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(2-Bromo-4-hydroxyphenyl)acetic acid | 0.45 g | BrC1=C(C=CC(=C1)O)CC(=O)O | C8H7BrO3
